US06936602B1
To cyclopropylamine (50 ml) was added dropwise t-butyl 4-bromobutyrate (33.5 g) at 40° C. To the mixture was added sodium iodide (22.6 g), and the mixture was refluxed overnight. The solvent was evaporated, and to the residue was added water. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by distillation under reduced pressure to give t-butyl N-cyclopropyl-4-aminobutyrate (12.6 g) as colorless oil.

reactant | t-butyl 4-bromobutyrate | 33.5 g | BrCCCC(=O)OC(C)(C)C | C8H15BrO2
reactant | sodium iodide | 22.6 g | [I-].[Na+]
reactant | cyclopropylamine | 50 ml | C1(CC1)N | C3H7N
product | t-butyl N-cyclopropyl-4-aminobutyrate | 12.6 g | C1(CC1)NCCCC(=O)OC(C)(C)C | C11H21NO2
